US09260441B2
Step B: 1-(4-Methyl-2-pyridyl)-1,4-diazepane dihydrochloride
tert-Butyl 4-(4-methyl-2-pyridyl)-1,4-diazepane-1-carboxylate (91 mg, 0.312 mmol) was dissolved in DCM under nitrogen. Hydrochloric acid (4N in dioxane, 1.56 ml, 6.25 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was evaporated under reduced pressure to give 84 mg of a solid (quantitative). MS (ESI) m/z=192.2 [M+1]+.

reactant | tert-Butyl 4-(4-methyl-2-pyridyl)-1,4-diazepane-1-carboxylate | 0.312 mmol, 91 mg | CC1=CC(=NC=C1)N1CCN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
reactant | Hydrochloric acid | 6.25 mmol, 4N, 1.56 ml | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-(4-Methyl-2-pyridyl)-1,4-diazepane dihydrochloride | 84 mg | Cl.Cl.CC1=CC(=NC=C1)N1CCNCCC1 | InChI=1S/C11H17N3.2ClH/c1-10-3-5-13-11(9-10)14-7-2-4-12-6-8-14;;/h3,5,9,12H,2,4,6-8H2,1H3;2*1H
